US08754107B2
A solution of 2-amino-1-[3-(4-phenylpiperidin-1-yl)pyrrolidin-1-yl]ethanone (preparation #9) (0.108 g, 0.377 mmol), 4,7-dichloroquinazoline (0.075 g, 0.377 mmol) and DIEA (0.1 mL, 0.565 mmol) in n-butanol was heated in a microwave (CEM Explorer, maximum power 300 W) at about 120° C. for about 20 min. The solvent was removed in vacuo and the residue was purified by preparative RP-HPLC (20% to 50% acetonitrile/0.05M aqueous ammonium acetate, buffered to pH 4.5, over 30 min at 81 mL/min; λ=254 nm; Microsorb C18, 100 Å, 5 μm, 250×46 mm column) to yield 2-(7-chloroquinazolin-4-ylamino)-1-[3-(4-phenylpiperidin-1-yl)pyrrolidin-1-yl]ethanone (0.100 g, 0.222 mmol) as a yellow solid. RP-HPLC (Table 1, Method a) Rt 1.77 min; m/z: (M+H)+ 450.

reactant | 2-amino-1-[3-(4-phenylpiperidin-1-yl)pyrrolidin-1-yl]ethanone | 0.377 mmol, 0.108 g | NCC(=O)N1CC(CC1)N1CCC(CC1)C1=CC=CC=C1 | C17H25N3O
reactant | 4,7-dichloroquinazoline | 0.377 mmol, 0.075 g | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | DIEA | 0.565 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-(7-chloroquinazolin-4-ylamino)-1-[3-(4-phenylpiperidin-1-yl)pyrrolidin-1-yl]ethanone | 0.222 mmol, 0.100 g | ClC1=CC=C2C(=NC=NC2=C1)NCC(=O)N1CC(CC1)N1CCC(CC1)C1=CC=CC=C1 | C25H28ClN5O
